US06723726B1
(1-Benzyl-1H-indazol-5-yl)-(6-chloro-pyrido[3,4-d]pyrimidin-4-yl)-amine Hydrochloride
Prepared according to Procedure A from 1-benzyl-1H-indazol-5-ylamine and 4,6-dichloro-pyrido[3,4-d]pyrimidine, δH [2H6]-DMSO 9.08 (1H,s), 8.92 (1H,s), 8.82 (1H,s), 8.23 (1H,d), 8.19 (1H,s), 7.80 (1H,d), 7.70 (1H,dd), 7.38-7.22 (5H,m), 5.69 (2H,s); m/z (M+1)+387.

reactant | 1-benzyl-1H-indazol-5-ylamine | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)N | C14H13N3
reactant | 4,6-dichloro-pyrido[3,4-d]pyrimidine | ClC=1C2=C(N=CN1)C=NC(=C2)Cl | C7H3Cl2N3
product | (1-Benzyl-1H-indazol-5-yl)-(6-chloro-pyrido[3,4-d]pyrimidin-4-yl)-amine Hydrochloride | Cl.C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC(=C2)Cl | InChI=1S/C21H15ClN6.ClH/c22-20-9-17-18(11-23-20)24-13-25-21(17)27-16-6-7-19-15(8-16)10-26-28(19)12-14-4-2-1-3-5-14;/h1-11,13H,12H2,(H,24,25,27);1H
